US07435823B2
To a vial was added 4-fluoronitrobenzene (1.41 g, 1.06 mL, 0.01 mol), DIEA (1.92 mL, 0.011 mmol), isopropylpiperazine (1.41 g, 0.011 mmol), and DMF (10 mL). Mixture was heated at 100° C. for 48 h in a sealed tube. The reaction mixture was cooled to RT and concentrated. The residue was purified via silica gel column chromatography (gradient elution with 0 to 10% MeOH in DCM) to afford 1-isopropyl-4-(4-nitrophenyl)piperazine.

reactant | 4-fluoronitrobenzene | 0.01 mol, 1.06 mL, 1.41 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | DIEA | 0.011 mmol, 1.92 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropylpiperazine | 0.011 mmol, 1.41 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-isopropyl-4-(4-nitrophenyl)piperazine | C(C)(C)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O2
